US06313094B1
[Process 1] Boc-Pro-NH—C(CH3)2—CH2OH
In a DMF solution containing 0.20 g of Boc-Pro-OH, 0.09 ml of 2-amino-2-methyl-1-propanol, 0.14 g of HOBt and 0.21 g of EDC hydrochloride were added and the resultant mixture was stirred for 14 hrs. The reaction mixture was treated similarly to that in Example 46 to give 80 mg of the title compound.

reactant | Boc-Pro-OH | 0.20 g | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | 2-amino-2-methyl-1-propanol | 0.09 ml | NC(CO)(C)C | C4H11NO
reactant | HOBt | 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 0.21 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | Boc-Pro-NH—C(CH3)2—CH2OH | 80 mg | N1([C@H](C(=O)NC(C)(C)CO)CCC1)C(=O)OC(C)(C)C | C14H26N2O4
